US07442797B2
A mixture of 2-hydroxy-6-phenylpyridine (1.0 g, 5.8 mmol), 2-bromo-6-phenylpyridine (1.4 g, 5.8 mmol) and potassium carbonate (807 mg, 5.8 mmol) was stirred at 200° C. for 8 hours. After the reaction mixture was cooled, to which was then added an aqueous 1 mol/L sodium hydroxide solution, the mixture was extracted with dichloromethane, the solvent was distilled off, and the residue was purified by silica gel column chromatography, thereby obtaining 1.3 g of 2,2′-oxybis(6-phenylpyridine) as colorless crystal.

reactant | 2-hydroxy-6-phenylpyridine | 5.8 mmol, 1.0 g | OC1=NC(=CC=C1)C1=CC=CC=C1 | C11H9NO
reactant | 2-bromo-6-phenylpyridine | 5.8 mmol, 1.4 g | BrC1=NC(=CC=C1)C1=CC=CC=C1 | C11H8BrN
reactant | potassium carbonate | 5.8 mmol, 807 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | 1 mol/L | [OH-].[Na+]
product | 2,2′-oxybis(6-phenylpyridine) | 1.3 g, Yield: 68.6% | O(C1=NC(=CC=C1)C1=CC=CC=C1)C1=NC(=CC=C1)C1=CC=CC=C1 | C22H16N2O
